US07825253B2
N-{2-[(2,2-dimethyl-2,3-dihydro-1-benzofuran-7-yl)amino]quinolin-5-yl}-N′-(4-fluorophenyl)sulfamide
The title compound, MS: m/e=479.0 (M+H+), was prepared in accordance with the general method of example 58 from 5-nitro-2-chloroquinoline, 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and 4-fluoro-phenylsulfamoyl chloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | 4-fluoro-phenylsulfamoyl chloride | FC1=CC=C(C=C1)NS(=O)(=O)Cl | C6H5ClFNO2S
product | N-{2-[(2,2-dimethyl-2,3-dihydro-1-benzofuran-7-yl)amino]quinolin-5-yl}-N′-(4-fluorophenyl)sulfamide | CC1(OC2=C(C1)C=CC=C2NC2=NC1=CC=CC(=C1C=C2)NS(=O)(=O)NC2=CC=C(C=C2)F)C | C25H23FN4O3S
